US07208506B2
2-Chloro-1-ethane sulfonyl chloride (51.3 mL, 0.49 mol) in dichloromethane (400 mL) was added dropwise over 2 hours to a solution of tert-octylamine (236.3 mL, 1.47 mol) and triethylamine (68.3 mL, 0.49 mol) in dichloromethane (400 mL) at −18° C. The mixture temperature was maintained between −18° C. and −9° C. during the addition. The mixture was allowed to warm to ambient temperature over 1 hour then washed with 1N HCl (400 mL) and distilled water (2×200 mL). The organic layer was dried with MgSO4, filtered and concentrated in vacuo to give a pale yellow oil. The oil was dried under vacuum at 50° C. to give ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide, 96.0 g (90% yield) as a pale yellow oil.

reactant | 2-Chloro-1-ethane sulfonyl chloride | 0.49 mol, 51.3 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | tert-octylamine | 1.47 mol, 236.3 mL | C(C)(C)(CC(C)(C)C)N | C8H19N
reactant | triethylamine | 0.49 mol, 68.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 90% yield | CC(CC(C)(C)C)(C)NS(=O)(=O)C=C | C10H21NO2S
